US08084469B2
Methyl 5-[4-(difluoromethoxy)phenyl]nicotinate
10.0 g (44.8 mmol) of 4-(difluoromethoxy)bromobenzene were reacted according to General Method 1A with 14.6 g (67.3 mmol) of [5-(methoxycarbonyl)pyridin-3-yl]boronic acid hydrochloride. The release of the hydrochloride was achieved by additional addition of 6.80 g (49.3 mmol) of potassium carbonate. Yield: 8.6 g (67% of theory)

reactant | 4-(difluoromethoxy)bromobenzene | 44.8 mmol, 10.0 g | FC(OC1=CC=C(C=C1)Br)F | C7H5BrF2O
reactant | [5-(methoxycarbonyl)pyridin-3-yl]boronic acid hydrochloride | 67.3 mmol, 14.6 g | Cl.COC(=O)C=1C=C(C=NC1)B(O)O
reactant | hydrochloride | Cl | ClH
reactant | potassium carbonate | 49.3 mmol, 6.80 g | C([O-])([O-])=O.[K+].[K+]
product | Methyl 5-[4-(difluoromethoxy)phenyl]nicotinate | FC(OC1=CC=C(C=C1)C=1C=NC=C(C(=O)OC)C1)F | C14H11F2NO3
